US08217065B2
B. 2-(2,6-Dimethyl-4-trifluoromethanesulfonyloxy-phenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester
2.9 g of 2-(4-Hydroxy-2,6-dimethyl-phenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester was stirred in 20 ml of anhydrous DMF at room temperature under nitrogen atmosphere. It was treated with 1.9 ml of diisopropyl ethyl amine and 3.8 g of PhNTf2 and the reaction was stirred at the same temperature for 3 days. The reaction was diluted with water and the resulting precipitates were collected by filtration. The filter cake was washed with water and dried by air in the suction funnel to afford the title compound. LCMS retention T=1.50 min. MS (m/z)=429.0. Method 10.

reactant | 2-(4-Hydroxy-2,6-dimethyl-phenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | 2.9 g | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)O)C)C=C1 | C17H16N2O3
reactant | diisopropyl ethyl amine | 1.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PhNTf2 | 3.8 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2,6-Dimethyl-4-trifluoromethanesulfonyloxy-phenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)OS(=O)(=O)C(F)(F)F)C)C=C1 | C18H15F3N2O5S
